US06025382
To a solution of 6-methoxybenzo[b]thiophene (Graham, S. L., et al. J. Med. Chem. 1989, 32, 2548-2554)(18.13 g, 0.111 mol) in 150 mL of anhydrous THF at -60° C. was added n-BuLi (76.2 mL, 0.122 mol, 1.6 M solution in hexanes), dropwise via syringe. After stirring for 30 min, triisopropyl borate (28.2 mL, 0.122 mol) was introduced via syringe. The resulting mixture was allowed to gradually warm to 0° C. and then partitioned between 1.0 N HCl and EtOAc (300 mL each). The layers were separated, and the organic phase was dried over Na2SO4. Concentration in vacuo produced a white solid that was triturated from Et2O/hexanes. Filtration provided 16.4 g (71%) of 6-methoxybenzo[b]thiophene-2-boronic acid as a white solid.

reactant | 6-methoxybenzo[b]thiophene | 0.111 mol, 18.13 g | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | n-BuLi | 0.122 mol, 1.6 M, 76.2 mL | [Li]CCCC
reactant | triisopropyl borate | 0.122 mol, 28.2 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-methoxybenzo[b]thiophene-2-boronic acid | 16.4 g, 71% | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
